US05480873
Concentrated sulphuric acid (20 ml) was cooled to 5° C., and 9,10-dihydro-4,5-dimethoxy-9,10-dioxoanthracene-2-carboxylic acid (1 g) was added portionwise during fifteen minutes, resulting in a deep crimson coloration. Maintaining the cool temperature, potassium nitrate (0.36 g) was added portionwise during 10 minutes. Stirring continued at 5° C. for a further 15 minutes before the mixture was allowed to warm to room temperature. Upon reaching room temperature, the mixture was heated to 40° C. for 1 hour. The material was then poured onto ice/water (100 ml), generating a yellow precipitate. This solid was collected by filtration and washed with water (1×100 ml). Drying in vacuo over silica gel yielded 9,10-dihydro-4,5-dimethoxy-9,10-dioxo-8-nitro-anthracene-2-carboxylic acid as a signal yellow powder, decomposition point 230° C.

reactant | 9,10-dihydro-4,5-dimethoxy-9,10-dioxoanthracene-2-carboxylic acid | 1 g | COC1=CC(=CC=2C(C3=CC=CC(=C3C(C12)=O)OC)=O)C(=O)O | C17H12O6
reactant | potassium nitrate | 0.36 g | [N+](=O)([O-])[O-].[K+]
solvent | sulphuric acid | 20 ml | S(O)(O)(=O)=O | H2O4S
product | 9,10-dihydro-4,5-dimethoxy-9,10-dioxo-8-nitro-anthracene-2-carboxylic acid | COC1=CC(=CC=2C(C3=C(C=CC(=C3C(C12)=O)OC)[N+](=O)[O-])=O)C(=O)O | C17H11NO8
